* Z:\mnt\spice-netlists\LTC3864_F08A.asc
XU1 N003 0 0 N008 N009 N006 N011 N002 N001 N004 IN N007 0 LTC3864
C1 N005 0 3.3n
V1 IN 0 24
C2 IN N001 .1µ
R1 IN N004 25m
M§Q1 N010 N007 N004 N004 FDC5614P
D1 0 N010 B560C
L1 N010 OUT 10µ
R2 OUT N009 422K
R3 N009 0 80.6K
C3 N006 0 100p
R4 OUT N011 100K tol=1 pwr=0.1
C4 OUT 0 47µ x2
C5 IN 0 12µ
C6 IN 0 4.7µ
R5 N006 N005 9.53K
R6 IN N002 100K
Rload OUT 0 2.5 tol=1 pwr=0.1
C7 N008 0 .01µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* LTC3864 - 60V Low Iq Step-Down DC/DC Controller with 100% Duty Cycle Capability\n5V Output Automotive Step-Down Converter\nInput: 5.2V to 55V     Output: 5V @ 2A, Fsw = 350KHz\nVout follows Vin when 3.5V <= Vin <= 5.2V
* Notes:\n  A smaller SS capacitor (C7) is being used to reduce simulation time. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3864.sub
.backanno
.end
